US09290517B2
Step A: Ethyl(2E)-2-[(3R,3aS,6aR)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-ylidene]acetate
A 20 mL sample vial was charged (3R,3aS,6aS)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (400 mg, 1.548 mmol), ethyl 2-(diethoxyphosphoryl)acetate (521 mg, 2.322 mmol) and THF (5 ml). The vial was flushed with nitrogen and cooled in an ice bath. To the mixture was then added slowly 60% sodium hydride (93 mg, 2.3 mmol) and the resulting reaction mixture was stirred at room temperature for 6 h. The reaction was partitioned between water (10 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic phases were dried over MgSO4, filtered and concentrated. The resulting residue was then purified by MPLC (40 g silica gel, 0 to 20% ethyl acetate in hexanes) to afford the desired product as a mixture of E/Z isomers. LC-MS: calculated for C16H28O5Si, [M+H]+Calc: 328.17. Found: 329.2, Rt=2.24 and 2.31 min (E and Z mix, 4 min run).

reactant | (3R,3aS,6aS)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 1.548 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]2[C@H](OC1)C(CO2)=O | C12H22O4Si
reactant | ethyl 2-(diethoxyphosphoryl)acetate | 2.322 mmol, 521 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 2.3 mmol, 93 mg | [H-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl(2E)-2-[(3R,3aS,6aR)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-ylidene]acetate | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]2[C@H](OC1)\C(\CO2)=C\C(=O)OCC | C16H28O5Si
